US05017724
285.2 Grams of cyclohexyl 3,5-dimethyl-2methoxyphenyl ketone was dissolved in 800 ml of acetic acid. To the solution was added 8 ml of 47% hydrobromic acid and then a solution prepared by dissolving 212 g of bromine in 100 ml of acetic acid was added thereto dropwise with ice-cooling and stirring. After stirring at room temperature for 2 hours, the reaction mixture was poured into ice water, followed by extraction with 2 liters of ethyl acetate. The extract was washed with water and then with a saturated aqueous sodium chloride solution and then dried with anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure to obtain 363.6 g of 1-bromocyclohexyl 3,5-dimethyl-2-methoxyphenyl ketone.

reactant | cyclohexyl 3,5-dimethyl-2methoxyphenyl ketone | CC=1C(=C(C=C(C1)C)C(=O)C1CCCCC1)OC | C16H22O2
reactant | hydrobromic acid | 8 ml | Br | BrH
reactant | bromine | 212 g | BrBr | Br2
solvent | acetic acid | 800 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 1-bromocyclohexyl 3,5-dimethyl-2-methoxyphenyl ketone | 363.6 g | CC=1C(=C(C=C(C1)C)C(=O)C1(CCCCC1)Br)OC | C16H21BrO2
